US03940394
[4-Chloro-6-(p-chlorobenzylamino)-5-methyl-2-pyrimidinylthio]acetic acid, ethyl ester
A stirred mixture of 4.2 g of p-chlorobenzylamine, 3.18 g of sodium carbonate and 8.4 g of (4,6-dichloro-5-methyl-2-pyrimidinylthio)acetic acid, ethyl ester in 100 ml of ethanol was heated under reflux for 4 hr. The reaction mixture was filtered and water was added to the filtrate to start precipitation. The collected solid was recrystallized from benzenepetroleum ether to give 3.6 g of product, mp. 114°-117°C.

reactant | p-chlorobenzylamine | 4.2 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | 3.18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (4,6-dichloro-5-methyl-2-pyrimidinylthio)acetic acid, ethyl ester | 8.4 g | ClC1=NC(=NC(=C1C)Cl)SCC(=O)OCC | C9H10Cl2N2O2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [4-Chloro-6-(p-chlorobenzylamino)-5-methyl-2-pyrimidinylthio]acetic acid, ethyl ester | 3.6 g | ClC1=NC(=NC(=C1C)NCC1=CC=C(C=C1)Cl)SCC(=O)OCC | C16H17Cl2N3O2S
